US09079902B2
A 150 mL heavy-walled pressure flask with a threaded screw cap was charged with 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (4.00 g, 7.64 mmol), bis(pinacolato)diboron (5.82 g, 22.93 mmol), potassium acetate (3.00 g, 30.6 mmol), Pd2(dba)3 (0.700 g, 0.764 mmol), and X-Phos (0.729 g, 1.528 mmol). 1,4-Dioxane (50.9 ml) was added, the flask was flushed with Ar and sealed, and the reaction was heated to 60° C. and stirred for 18 hours. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated. The isolated solid material was triturated in ethyl acetate and stirred for 15 minutes. The solution was filtered and the solids were washed with ethyl acetate to afford clean N-(2,4-dimethoxybenzyl)-1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide. The filtrate was concentrated and purified via column chromatography (RediSep Gold (Teledyne Isco, Lincoln, Nebr.) 80 g, gradient elution 0 to 5% EtOAc:DCM) and the clean fractions were combined with the previously isolated material to afford N-(2,4-dimethoxybenzyl)-1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide as a light yellow solid.

reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 7.64 mmol, 4.00 g | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
reactant | bis(pinacolato)diboron | 22.93 mmol, 5.82 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 30.6 mmol, 3.00 g | C(C)(=O)[O-].[K+]
reactant | X-Phos | 1.528 mmol, 0.729 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Pd2(dba)3 | 0.764 mmol, 0.700 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-Dioxane | 50.9 ml | O1CCOCC1 | C4H8O2
product | N-(2,4-dimethoxybenzyl)-1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=CN(C3=C2)C)B2OC(C(O2)(C)C)(C)C)C2=NC=NS2)C=CC(=C1)OC | C26H31BN4O6S2
